US04061761
2-Benzylimino-4-(4-chloro-3-sulfamoylphenyl)-3-methyl-1,3-thiazolidine-4-ol
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2.7 g of 1-benzyl-3-methylthiourea were reacted as prescribed in Example 23 and the reaction mixture was introduced into 200 ml of diethyl ether while stirring. The hygroscopic crystals of the 2-benzylimino-4-(4-chloro-3-sulfamoylphenyl)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide were rapidly filtered off, dissolved in 70 ml of water and converted into the end product according to the prescription of Example 28. Colorless solid body: decomposition beginning at 110° C, γC=N 1610 cm-1.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-benzyl-3-methylthiourea | 2.7 g | C(C1=CC=CC=C1)NC(=S)NC | C9H12N2S
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-Benzylimino-4-(4-chloro-3-sulfamoylphenyl)-3-methyl-1,3-thiazolidine-4-ol | C(C1=CC=CC=C1)N=C1SCC(N1C)(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C17H18ClN3O3S2
